US07632840B2
4-[({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxylic acid was reacted with para-formaldehyde using an analogous method to that described for the equivalent step in Example 11 to give 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-methylpiperidine-4-carboxylic acid; 1H NMR Spectrum: (DMSO-d6+CD3COOD) 2.04 (m, 2H); 2.17 (m, 2H); 2.27 (s, 3H); 2.45-2.55 (m, 3H+ DMSO); 2.68 (m, 2H); 3.06 (m, 2H); 3.72 (s, 2H); 3.95 (s, 3H); 7.20 (s, 1H); 7.28 (t, 1H); 7.48 (t, 1H); 7.57 (t, 1H); 8.32 (s, 1H); 8.42 (s, 1H); Mass Spectrum: (M+H)+ 488.

reactant | 4-[({4-[(3-Chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-4-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCNCC1)C(=O)O)C)OC)F | C23H25ClFN5O3
reactant | para-formaldehyde | C=O | CH2O
product | 4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]-1-methylpiperidine-4-carboxylic acid | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CN(C1(CCN(CC1)C)C(=O)O)C)OC)F | C24H27ClFN5O3
